US07399763B2
A mixture of benzyl 4-benzyl-3-oxopiperazine-1-carboxylate (4.7 g, 14.5 mmol) and 10% Pd/C (0.47 g) in ethanol (150 mL) was stirred under an atmosphere of hydrogen (1 atm) at room temperature overnight. The product mixture was filtered through a pad of Celite, and concentrated under vacuum to provide 1-benzylpiperazin-2-one.

reactant | benzyl 4-benzyl-3-oxopiperazine-1-carboxylate | 14.5 mmol, 4.7 g | C(C1=CC=CC=C1)N1C(CN(CC1)C(=O)OCC1=CC=CC=C1)=O | C19H20N2O3
solvent | ethanol | 150 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.47 g | [Pd] | Pd
product | 1-benzylpiperazin-2-one | C(C1=CC=CC=C1)N1C(CNCC1)=O | C11H14N2O
